US08236835B2
Synthesis of 2-(3-bromo-2-oxopyrrolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide
To a solution of N-(4-fluorobenzyl)-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide (0.35 g, 1.05 mmol) in anhydrous tetrahydrofuran (25 mL) at −78° C. was added lithium bis(trimethylsilyl)amide in tetrahydrofuran (2.31 mL, 2.31 mmol) dropwise. The reaction mixture was stirred at −78° C. for 5 minutes, followed by the addition of N-bromosuccinimide (0.19 g, 1.05 mmol) dropwise. The reaction mixture was stirred at −78° C. for 10 min, quenched with aqueous saturated ammonium chloride solution (10 mL) and extracted with dichloromethane (3×10 mL). The combined organic solutions were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluting with ethyl acetate/hexanes (1/1) to afford the title compound as a white solid (0.22 g, 51%): 1H NMR (300 MHz, CDCl3) δ 7.34-7.24 (m, 2H), 7.07-6.97 (m, 2H), 5.98 (b s, 1H), 4.66-4.59 (m, 1H), 4.58 (d, J=5.8 Hz, 2H), 4.30-4.14 (m, 2H), 2.86-2.69 (m, 1H), 2.64 (s, 3H), 2.56-2.45 (m, 1H); MS (ES+) m/z 412 (M+1), 414 (M+1).

reactant | N-(4-fluorobenzyl)-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide | 1.05 mmol, 0.35 g | FC1=CC=C(CNC(=O)C2=C(N=C(S2)N2C(CCC2)=O)C)C=C1 | C16H16FN3O2S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-bromosuccinimide | 1.05 mmol, 0.19 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.31 mmol, 2.31 mL | O1CCCC1 | C4H8O
product | 2-(3-bromo-2-oxopyrrolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide | 0.22 g, 51% | BrC1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=CC=C(C=C1)F)=O | C16H15BrFN3O2S
